US07795283B2
ii) 4-(1,4-Dioxaspiro[4.5]dec-8-yl)phenyl 4-methylbenzenesulphonate
Boron trifluoride diethyletherate (3.3 mL, 26.0 mmol) was added dropwise via a syringe to a stirred solution of 4-(4-oxocyclohexyl)phenyl 4-methylbenzenesulphonate (2.49 g, 7.23 mmol) in dry DCM/ethylene glycol (15 mL/14.11 mL) cooled with an isopropanol/ice bath and stirred for 40 minutes. The mixture was poured onto water (50 mL) and extracted with DCM (2×100 mL). The organic phase was washed with 10% sodium hydrogen carbonate solution (100 mL) then dried and concentrated by evaporation to give the title compound (2.685 g, 96%) as a solid; 1H NMR δ 1.54-1.66 (4H, m), 1.68-1.75 (4H, m), 2.43 (3H, s), 2.54-2.60 (1H, m), 3.86-3.89 (4H, s), 6.91-6.95 (2H, m), 7.21-7.25 (2H, m), 7.46-7.48 (2H, m), 7.73-7.75 (2H, m); MS m/e M+Na+ 411.

reactant | Boron trifluoride | B(F)(F)F | BF3
reactant | 4-(4-oxocyclohexyl)phenyl 4-methylbenzenesulphonate | 7.23 mmol, 2.49 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C1CCC(CC1)=O | C19H20O4S
reactant | DCM ethylene glycol | 15 mL | C(Cl)Cl.C(CO)O
product | 4-(1,4-Dioxaspiro[4.5]dec-8-yl)phenyl 4-methylbenzenesulphonate | 2.685 g, 96% | CC1=CC=C(C=C1)S(=O)(=O)OC1=CC=C(C=C1)C1CCC2(OCCO2)CC1 | C21H24O5S
